US04178449
6-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo-[1,5-a]pyrimidine-3-carbonitrile
A mixture of 1.08 g. of 3-aminopyrazole-4-carbonitrile, 25 ml. of glacial acetic acid and 2.57 g. of 3-dimethylamino-2-methyl-3'-(trifluoromethyl)acrylophenone is refluxed for 8 hours and then evaporated to a crystalline solid. A methylene chloride solution of this solid is treated as described in Example 1, giving the desired product, m.p. 191°-193° C.

reactant | 3-aminopyrazole-4-carbonitrile | NC1=NNC=C1C#N | C4H4N4
reactant | 3-dimethylamino-2-methyl-3'-(trifluoromethyl)acrylophenone | CN(C=C(C(=O)C1=CC(=CC=C1)C(F)(F)F)C)C | C13H14F3NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Methyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo-[1,5-a]pyrimidine-3-carbonitrile | CC=1C=NC=2N(C1C=1C=C(C=CC1)C(F)(F)F)N=CC2C#N | C15H9F3N4
